US07205295B2
Intermediate 11: 4-Hydroxy-2,5-dimethyl-3-nitro-benzaldehyde.
To a −10° C. (ice and sodium chloride) solution of 4-hydroxy-2,5-dimethylbenzaldehyde (1.0 g, 6.65 mmol) in concentrated sulfuric acid (10 mL) was added dropwise 70% (concentrated) nitric acid (0.598 g, 6.65 mmol) in 2 mL concentrated sulfuric acid. The reaction stirred for approximately 30 minutes. The reaction was then poured onto crushed ice. The precipitate was collected and washed with water. The solid was then dried on a high vacuum pump to yield a white solid. Microanalysis (C9H9N1O4): calculated: C=55.39, H=4.65, N=7.18; found: C=55.60, H=4.65, N=7.02. MS: M+−1=194.1 Da.

reactant | sodium chloride | [Cl-].[Na+]
reactant | 4-hydroxy-2,5-dimethylbenzaldehyde | 6.65 mmol, 1.0 g | OC1=CC(=C(C=O)C=C1C)C | C9H10O2
reactant | nitric acid | 6.65 mmol, 0.598 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | 4-Hydroxy-2,5-dimethyl-3-nitro-benzaldehyde | OC1=C(C(=C(C=O)C=C1C)C)[N+](=O)[O-] | C9H9NO4
